US06518257B1
(i) 1-(3′-fluoro[1,1′-biphenyl]-3-yl)-1-(1-trityl-1H-imidazol-4-yl)-2-methyl-1-propanol
By the reaction in the same manner as in Example 4-(ii) using 1-(3-bromophenyl)-(1-trityl-1H-imidazol-4-yl)-2-methyl-1-propanol (2.62 g), 3-fluorophenylboronic acid (1.09 g), 2M aqueous sodium carbonate solution (19.5 ml) and tetrakis(triphenylphosphine)palladium(0) (281 mg), the yellow amorphous title compound (2.55 g) was obtained.

reactant | 1-(3-bromophenyl)-(1-trityl-1H-imidazol-4-yl)-2-methyl-1-propanol | 2.62 g | BrC=1C=C(C=CC1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H29BrN2O
reactant | 3-fluorophenylboronic acid | 1.09 g | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 2M, 19.5 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 281 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(3′-fluoro[1,1′-biphenyl]-3-yl)-1-(1-trityl-1H-imidazol-4-yl)-2-methyl-1-propanol | 2.55 g | FC=1C=C(C=CC1)C1=CC(=CC=C1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H33FN2O
